US07947683B2
3-(2,4-dimethyl-1,3-thiazol-5-yl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.17 g yield starting from 2,4-dimethyl-1,3-thiazole-5-carbohydrazide (0.50 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.51 g). MS (m/z): 263 [MH]+.

reactant | 2,4-dimethyl-1,3-thiazole-5-carbohydrazide | 0.50 g | CC=1SC(=C(N1)C)C(=O)NN | C6H9N3OS
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.51 g | Cl.CNC(CCCC=C)=NC
product | 3-(2,4-dimethyl-1,3-thiazol-5-yl)-4-methyl-5-(4-penten-1-yl)-4H-1,2,4-triazole | CC=1SC(=C(N1)C)C1=NN=C(N1C)CCCC=C | C13H18N4S
